US07875639B2
2-(2-Imino-4,5-dimethyl-thiazol-3-yl)-ethanol hydrobromide
A mixture of 4,5-dimethlyl-thiazol-2-ylamine (1.0 g, 7.8 mmol) and 2-bromoethanol (0.68 mL, 9.4 mmol) were processed as described in Example 8A to provide 0.92 g (47%) of the title compound 1H NMR (DMSO-d6, 300 MHz) δ ppm 2.19 (s, 6 H), 3.61-3.68 (m, 2 H), 4.03 (t, J=4.9 Hz, 2 H), 5.14 (brs, 1H) 9.27 (s, 1 H); MS (DCI/NH3) m/z 173 (M+H)+.

reactant | 4,5-dimethlyl-thiazol-2-ylamine | 7.8 mmol, 1.0 g | C=C1N=C(SC1=C)N | C5H6N2S
reactant | 2-bromoethanol | 9.4 mmol, 0.68 mL | BrCCO | C2H5BrO
product | 2-(2-Imino-4,5-dimethyl-thiazol-3-yl)-ethanol hydrobromide | 0.92 g, 47% | Br.N=C1SC(=C(N1CCO)C)C | InChI=1S/C7H12N2OS.BrH/c1-5-6(2)11-7(8)9(5)3-4-10;/h8,10H,3-4H2,1-2H3;1H
